US08168783B2
Ethyl{4-[(tert-butoxycarbonyl)amino]piperidin-1-yl}(oxo)acetate
4-(tert-butoxycarbonylamino)piperidine (150 mg) was added to acetonitrile (5 mL), and triethylamine (0.21 mL) and ethyloxalyl chloride (0.11 mL) were added dropwise at 0° C. The reaction solution was stirred for 30 minutes and an aqueous saturated sodium hydrogen carbonate solution was added, followed by extraction with ethyl acetate. The organic layer was washed in turn with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain the title compound (235 mg) having the following physical properties.

reactant | 4-(tert-butoxycarbonylamino)piperidine | 150 mg | C(C)(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
reactant | ethyloxalyl chloride | 0.11 mL | CCC(=O)C(=O)Cl | C4H5ClO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | triethylamine | 0.21 mL | C(C)N(CC)CC | C6H15N
product | Ethyl{4-[(tert-butoxycarbonyl)amino]piperidin-1-yl}(oxo)acetate | 235 mg | C(C)OC(C(=O)N1CCC(CC1)NC(=O)OC(C)(C)C)=O | C14H24N2O5
